US08211928B2
To a stirred solution of (R)-tert-butyl-2-amino-2-phenylacetate (1.0 g, 4.10 mmol) and Hunig's base (1.79 mL, 10.25 mmol) in DMF (40 mL) was added dimethylcarbamoyl chloride (0.38 mL, 4.18 mmol) dropwise over 10 minutes. After stirring at room temperature for 3 hours, the reaction was concentrated under reduced pressure and the resulting residue was dissolved in ethyl acetate. The organic layer was washed with H2O, 1N aq. HCl and brine, dried (MgSO4), filtered and concentrated under reduced pressure. (R)-tert-butyl 2-(3,3-dimethylureido)-2-phenylacetate was obtained as a white solid (0.86 g; 75%) and used without further purification. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.33 (s, 9H) 2.82 (s, 6H) 5.17 (d, J=7.63 Hz, 1H) 6.55 (d, J=7.32 Hz, 1H) 7.24-7.41 (m, 5H). LCMS: Anal. Calcd, for C15H22N2O3 278.16 found 279.23 (M÷H)+; HPLC PHENOMENEX® LUNA C-18 4.6×50 mm, 0 to 100% B over 4 minutes, 1 minute hold time, A=90% water, 10% methanol, 0.1% TFA, B=10% water, 90% methanol, 0.1% TFA, RT=2.26 min, 97% homogeneity index.

reactant | (R)-tert-butyl-2-amino-2-phenylacetate | 4.10 mmol, 1.0 g | C(C)(C)(C)OC([C@@H](C1=CC=CC=C1)N)=O | C12H17NO2
reactant | Hunig's base | 10.25 mmol, 1.79 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylcarbamoyl chloride | 4.18 mmol, 0.38 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 2-(3,3-dimethylureido)-2-phenylacetate | CN(C(N[C@@H](C(=O)OC(C)(C)C)C1=CC=CC=C1)=O)C | C15H22N2O3
